US04221788
2-(4aminobenzyl)perhydroazepine
Hydrogenate 3.72 of 7-(4-nitrobenzyl)perhydroazepin-2-one in 50 mls of ethyl alcohol with platinum/hydrogen. After the absorption of hydrogen has ceased, filter off the catalyst and concentrate the filtrate. Dissolve the thus obtained 7-(4-aminobenzyl)-perhydroazepin-2-one in tetrahydrofuran. Add 680 mg of lithium aluminum hydride and boil the mixture under reflux. After cooling, treat it with ice-water and extract it with diethyl Dry the organic phase over sodium sulphate and concentrate it to obtain 2.0 g of the brown oily title compound.

reactant | 7-(4-nitrobenzyl)perhydroazepin-2-one | [N+](=O)([O-])C1=CC=C(CC2CCCCC(N2)=O)C=C1 | C13H16N2O3
solvent | ethyl alcohol | 50 mls | C(C)O | C2H6O
catalyst | platinum hydrogen | [Pt].[H][H]
product | 2-(4aminobenzyl)perhydroazepine | 2.0 g | NC1=CC=C(CC2NCCCCC2)C=C1 | C13H20N2
